US06608070B1
2-Acetyl-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine:
The title compound was prepared from 4-[1-(tert-butyldimethylsilyloxy)ethyl]-2-pyridinecarbonitrile according to the procedure for preparing 2-acetyl-4-chloropyridine described Example 33.

reactant | 4-[1-(tert-butyldimethylsilyloxy)ethyl]-2-pyridinecarbonitrile | [Si](C)(C)(C(C)(C)C)OC(C)C1=CC(=NC=C1)C#N | C14H22N2OSi
reactant | 2-acetyl-4-chloropyridine | C(C)(=O)C1=NC=CC(=C1)Cl | C7H6ClNO
product | 2-Acetyl-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine | C(C)(=O)C1=NC=CC(=C1)C(C)O[Si](C)(C)C(C)(C)C | C15H25NO2Si
